US07754737B2
(3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-hydroxypropan-2-yl)piperidine-1-carboxamide (I-158A) was prepared by applying analogous procedures to those described in Example 32 Step 1 to (S)-4-nitrophenyl 1-(tert-butyldimethylsilyloxy)-3-cyclohexylpropan-2-ylcarbamate and (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol to afford (R)—N—((S)-1-(tert-butyldimethylsilyloxy)-3-cyclohexylpropan-2-yl)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxamide followed by removal of the t-butyldimethylsilyl group with aqueous acid.

reactant | (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N—((S)-3-cyclohexyl-1-hydroxypropan-2-yl)piperidine-1-carboxamide | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)N[C@H](CO)CC1CCCCC1 | C27H43ClN2O4
reactant | (S)-4-nitrophenyl 1-(tert-butyldimethylsilyloxy)-3-cyclohexylpropan-2-ylcarbamate | [Si](C)(C)(C(C)(C)C)OC[C@H](CC1CCCCC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H36N2O5Si
reactant | (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCC1 | C17H26ClNO2
product | (R)—N—((S)-1-(tert-butyldimethylsilyloxy)-3-cyclohexylpropan-2-yl)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxamide | [Si](C)(C)(C(C)(C)C)OC[C@H](CC1CCCCC1)NC(=O)N1C[C@@H](CCC1)[C@](CCCCOC)(O)C1=CC(=CC=C1)Cl | C33H57ClN2O4Si
